* Z:\celera\projects\Simplis\playbrian\verif301\clock_request\verification\sim_clock_request.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map clock 11
.node_map en0 10
.node_map en1 9
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000

X$clock_request 11 10 9 clock_request

** From Z:\celera\projects\Simplis\playbrian\verif301\clock_request\design\clock_request.sxcmp
.subckt clock_request 51 48 47
*#hierarchy
.node_map out0 49
.node_map out1 50
.node_map out2 52
.node_map out3 53
.node_map out4 54
.node_map out5 55
.node_map out6 56
.node_map out7 57
.node_map clock 51
.node_map en0 48
.node_map en1 47
X$IXCLKR 51 48 47 30 47 31 47 47 47 32 33 34 35 36 37 38 49 50 52 53 54 55 56 57 39 40 41 42 43 44 45 46 clockrequest vars: clockrequest_outputs=8 clockrequest_divide0=0 clockrequest_divide1=1 clockrequest_divide2=2 clockrequest_divide3=3 clockrequest_divide4=4 clockrequest_divide5=5 clockrequest_divide6=6 clockrequest_divide7=7 clockrequest_divide8=1 clockrequest_divide9=1 clockrequest_divide10=1 clockrequest_divide11=1 clockrequest_divide12=1 clockrequest_divide13=1 clockrequest_divide14=1 clockrequest_vmax=6 clockrequest_enable0='pin' clockrequest_enable1='pin' clockrequest_enable2='always' clockrequest_enable3='pin' clockrequest_enable4='always' clockrequest_enable5='pin' clockrequest_enable6='pin' clockrequest_enable7='pin' clockrequest_enable8='pin' clockrequest_enable9='pin' clockrequest_enable10='pin' clockrequest_enable11='pin' clockrequest_enable12='pin' clockrequest_enable13='pin' clockrequest_enable14='pin' clockrequest_invert0='no' clockrequest_invert1='no' clockrequest_invert2='no' clockrequest_invert3='no' clockrequest_invert4='no' clockrequest_invert5='yes' clockrequest_invert6='yes' clockrequest_invert7='yes' clockrequest_invert8='no' clockrequest_invert9='no' clockrequest_invert10='no' clockrequest_invert11='no' clockrequest_invert12='no' clockrequest_invert13='no' clockrequest_invert14='no' clockrequest_dft='no' clockrequest_srambist='no'
X$OUT0 49 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT0' dftprobe_description='Clock_Output0' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT1 50 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT1' dftprobe_description='Clock_Output1' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT2 52 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT2' dftprobe_description='Clock_Output2' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT3 53 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT3' dftprobe_description='Clock_Output3' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT4 54 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT4' dftprobe_description='Clock_Output4' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT5 55 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT5' dftprobe_description='Clock_Output5' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT6 56 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT6' dftprobe_description='Clock_Output6' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT7 57 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT7' dftprobe_description='Clock_Output7' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$U18 51 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U22 48 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U26 47 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
.ends clock_request

** From Z:\celera\projects\Simplis\playbrian\verif301\clock_request\verification\FORCE_clock_request.sxcmp


.end
