* Z:\celera\projects\Simplis\playbrian\verif301\clock_request\verification\sim_clock_request.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map clock 11
.node_map en0 10
.node_map en1 9
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000

X$clock_request 11 10 9 clock_request

** From Z:\celera\projects\Simplis\playbrian\verif301\clock_request\design\clock_request.sxcmp
.subckt clock_request 52 49 48
*#hierarchy
.node_map out0 50
.node_map out1 51
.node_map out2 53
.node_map out3 54
.node_map out4 55
.node_map out5 56
.node_map out6 57
.node_map out7 58
.node_map stdby 59
.node_map clock 52
.node_map en0 49
.node_map en1 48
X$IXCLKR 52 49 48 32 48 33 48 48 48 34 35 36 37 38 39 40 50 51 53 54 55 56 57 58 41 42 43 44 45 46 47 59 clockrequest vars: clockrequest_outputs=8 clockrequest_divide0=0 clockrequest_divide1=1 clockrequest_divide2=2 clockrequest_divide3=3 clockrequest_divide4=4 clockrequest_divide5=5 clockrequest_divide6=6 clockrequest_divide7=7 clockrequest_divide8=1 clockrequest_divide9=1 clockrequest_divide10=1 clockrequest_divide11=1 clockrequest_divide12=1 clockrequest_divide13=1 clockrequest_divide14=1 clockrequest_vmax=6 clockrequest_enable0='pin' clockrequest_enable1='pin' clockrequest_enable2='always' clockrequest_enable3='pin' clockrequest_enable4='always' clockrequest_enable5='pin' clockrequest_enable6='pin' clockrequest_enable7='pin' clockrequest_enable8='pin' clockrequest_enable9='pin' clockrequest_enable10='pin' clockrequest_enable11='pin' clockrequest_enable12='pin' clockrequest_enable13='pin' clockrequest_enable14='pin' clockrequest_invert0='no' clockrequest_invert1='no' clockrequest_invert2='no' clockrequest_invert3='no' clockrequest_invert4='no' clockrequest_invert5='yes' clockrequest_invert6='yes' clockrequest_invert7='yes' clockrequest_invert8='no' clockrequest_invert9='no' clockrequest_invert10='no' clockrequest_invert11='no' clockrequest_invert12='no' clockrequest_invert13='no' clockrequest_invert14='no' clockrequest_dft='no' clockrequest_srambist='no' clockrequest_standby='yes'
X$OUT0 50 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT0' dftprobe_description='Clock_Output0' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT1 51 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT1' dftprobe_description='Clock_Output1' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT2 53 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT2' dftprobe_description='Clock_Output2' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT3 54 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT3' dftprobe_description='Clock_Output3' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT4 55 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT4' dftprobe_description='Clock_Output4' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT5 56 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT5' dftprobe_description='Clock_Output5' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT6 57 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT6' dftprobe_description='Clock_Output6' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OUT7 58 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OUT7' dftprobe_description='Clock_Output7' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$STDBY 59 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='STDBY' dftprobe_description='Clock_Standby_Output' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$U19 52 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U23 49 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U27 48 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
.ends clock_request

** From Z:\celera\projects\Simplis\playbrian\verif301\clock_request\verification\FORCE_clock_request.sxcmp


.end
